US03989681
Preparation of 1,3-dihydro-1-methoxymethyl-7-nitroso-5-phenyl-2H-1,4-benzodiazepin-2-one
30 g. of Manganese dioxide was added to a solution of 3.1 g. (0.01 mole) of 1,3-dihydro-7-hydroxyamino-1-methoxymethyl-5-phenyl-2H-1,4-benzodiazepin-2-one in 200 ml. of methylene chloride. After stirring for 10 minutes at room temperature the inorganic material was filtered off and the filtrate was evaporated to leave an oil with a greenish tint. Since crystallization attempts were unsuccessful the material was purified by chromatography over 50 g. of silica gel using 5% ethylacetate in methylene chloride. The thin layer chromatographically pure fractions still did not crystallize.

reactant | 1,3-dihydro-7-hydroxyamino-1-methoxymethyl-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.01 mole | ONC=1C=CC2=C(C(=NCC(N2COC)=O)C2=CC=CC=C2)C1 | C17H17N3O3
catalyst | Manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,3-dihydro-1-methoxymethyl-7-nitroso-5-phenyl-2H-1,4-benzodiazepin-2-one | COCN1C(CN=C(C2=C1C=CC(=C2)N=O)C2=CC=CC=C2)=O | C17H15N3O3
